US06506901B2
Step A: (4-Aminomethylpiperidin-1-yl)-4-nitrobenzenesulfonamide
A solution of benzaldehyde (20.3 mL, 200 mmol) and 4-aminomethylpiperidine (22.8 g, 200 mmol) in 250 mL toluene was heated at reflux until 3.6 mL of H2O was collected in a Dean-Stark trap. To the cooled reaction mixture was added 4-nitrobenzenesulfonyl chloride (44.3 g, 200 mmol) and diisopropylethyl amine (34.8 mL, 200 mmol) and stirring was continued for 1 hour. The intermediate imine was decomposed by the addition of 200 mL of 1N KHSO4 solution. The solids formed were filtered, washed sequentially with water and ether. The collected solids were dried to provide 65 g of the title compound.

reactant | benzaldehyde | 200 mmol, 20.3 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | 4-aminomethylpiperidine | 200 mmol, 22.8 g | NCC1CCNCC1 | C6H14N2
reactant | 4-nitrobenzenesulfonyl chloride | 200 mmol, 44.3 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | diisopropylethyl amine | 200 mmol, 34.8 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | KHSO4 | 1N, 200 mL | OS(=O)(=O)[O-].[K+]
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
solvent | H2O | 3.6 mL | O | H2O
product | (4-Aminomethylpiperidin-1-yl)-4-nitrobenzenesulfonamide | 65 g | NCC1CCN(CC1)C1=C(C=CC(=C1)[N+](=O)[O-])S(=O)(=O)N | C12H18N4O4S
